US09353070B2
1,5-dimethyl-6-thioxo-3-(2,2,7-trifluoro-3-oxo-3,4-dihydro-2H-benzo[b][1,4]oxazin-6-yl]-1,3,5-triazinane-2,4-dione
0.97 g (5.0 mmol) methyl N-methyl-N-(methylcarbamothioyl)carbamate with a purity of 83.3% was dissolved in 4.2 g DMF. 0.14 g (1.7 mmol) sodium acetate was added. The mixture was stirred at 60° C. at a pressure of 25 mbar. Via syringe a solution of 1.32 g (3.7 mmol) phenyl N-(2,2,7-trifluoro-3-oxo-3,4-dihydro-2H-benzo[b][1,4]oxazin-6-yl)carbamate (purity 95.7%) in 4.2 g DMF was added within 2 h. From time to time fresh DMF was added to maintain the solvent volume. After a poststirring period of 1 h, a chemical yield 73% was determined by quantitative HPLC analytics (HPLC-method A; tR=4.9 min) of the product solution.

reactant | methyl N-methyl-N-(methylcarbamothioyl)carbamate | 5.0 mmol, 0.97 g | CN(C(OC)=O)C(NC)=S | C5H10N2O2S
reactant | sodium acetate | 1.7 mmol, 0.14 g | C(C)(=O)[O-].[Na+]
reactant | phenyl N-(2,2,7-trifluoro-3-oxo-3,4-dihydro-2H-benzo[b][1,4]oxazin-6-yl)carbamate | 3.7 mmol, 1.32 g | FC1(C(NC2=C(O1)C=C(C(=C2)NC(OC2=CC=CC=C2)=O)F)=O)F | C15H9F3N2O4
solvent | DMF | 4.2 g | CN(C)C=O | C3H7NO
solvent | DMF | 4.2 g | CN(C)C=O | C3H7NO
product | 1,5-dimethyl-6-thioxo-3-(2,2,7-trifluoro-3-oxo-3,4-dihydro-2H-benzo[b][1,4]oxazin-6-yl]-1,3,5-triazinane-2,4-dione | yield 73% | CN1C(N(C(N(C1=S)C)=O)C1=CC2=C(OC(C(N2)=O)(F)F)C=C1F)=O | C13H9F3N4O4S
